US09145414B2
A solution of cyclopropyl boronic acid (497 mg), palladium acetate (II) (65 mg), tricyclohexylphosphine (162 mg), and potassium phosphate (2.5 g) in toluene (9 mL) and water (0.45 mL) was added to 5-bromopyridin-3-amine (500 mg), and the mixture was stirred at 100° C. for 11 hours. Ethyl acetate and water were added, the organic layer was separated, and the resultant was washed with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 3-amino-5-cyclopropylpyridine.

reactant | cyclopropyl boronic acid | 497 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 162 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 2.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-bromopyridin-3-amine | 500 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.45 mL | O | H2O
catalyst | copper acetate | 65 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-5-cyclopropylpyridine | NC=1C=NC=C(C1)C1CC1 | C8H10N2
